US07868177B2
A 50 ml round bottom flask was charged with N-(4-methoxyphenyl)-4-methyl-1-phenyl-1H-pyrazol-3-amine (0.37 g, 1.33 mmol), hydrobromic acid (2.16 ml, 39.74 mmol), and acetic acid (2.27 ml, 39.74 mmol). The reaction mixture was stirred at 110° C. for 4 h, then cooled to RT and diluted with water. The solution was neutralized with 6 N NaOH until a pH of about 6, upon which the product precipitated out of solution. The solid was filtered and dried under high vacuum to afford 4-(4-methyl-1-phenyl-1H-pyrazol-3-ylamino)phenol as a dark solid. MS m/z=266.1 [M+H]+. Calc'd for C16H15N3O: 265.31.

reactant | N-(4-methoxyphenyl)-4-methyl-1-phenyl-1H-pyrazol-3-amine | 1.33 mmol, 0.37 g | COC1=CC=C(C=C1)NC1=NN(C=C1C)C1=CC=CC=C1 | C17H17N3O
reactant | hydrobromic acid | 39.74 mmol, 2.16 ml | Br | BrH
reactant | acetic acid | 39.74 mmol, 2.27 ml | C(C)(=O)O | C2H4O2
reactant | NaOH | 6 N | [OH-].[Na+]
solvent | water | O | H2O
product | 4-(4-methyl-1-phenyl-1H-pyrazol-3-ylamino)phenol | CC=1C(=NN(C1)C1=CC=CC=C1)NC1=CC=C(C=C1)O | C16H15N3O
